US06576656B1
(1) 1-(2-Diethylaminoethyl)-4-trifluoromethyl-6-iodo-3-hydroxy-3-(2-fluorophenyl)oxindole
To a solution of 1-bromo-2-fluorobenzene (0.09 mL, 0.823 mmol) in THF (4 mL) was added dropwise 1.53 N BuLi in hexane (0.54 mL, 0.826 mmol) over 10 min at −78° C. and the mixture was stirred for 10 min. The resulting solution was then transferred into the cooled solution of 1-(2-diethylaminoethyl)-4-trifluoromethyl-6-iodoisatin (330 mg, 0.75 mmol) in THF (2 mL) at −78° C. via a cannula. The mixture was stirred for 30 min at the same temperature and the reaction was quenched with aqueous NaHCO3. The mixture was extracted with ethyl acetate and the extracts were dried over MgSO4 and concentrated. The residue was purified by silica gel column chromatography with 50:1 to 30:1 chloroform/methanol to give the title compound (35.9 mg, 9%).

reactant | 1-bromo-2-fluorobenzene | 0.823 mmol, 0.09 mL | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | BuLi | 1.53 N | [Li]CCCC
reactant | hexane | 0.826 mmol, 0.54 mL | CCCCCC | C6H14
reactant | 1-(2-diethylaminoethyl)-4-trifluoromethyl-6-iodoisatin | 0.75 mmol, 330 mg | C(C)N(CCN1C(=O)C(=O)C2=C(C=C(C=C12)I)C(F)(F)F)CC | C15H16F3IN2O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(2-Diethylaminoethyl)-4-trifluoromethyl-6-iodo-3-hydroxy-3-(2-fluorophenyl)oxindole | 35.9 mg, 9% | C(C)N(CCN1C(C(C2=C(C=C(C=C12)I)C(F)(F)F)(C1=C(C=CC=C1)F)O)=O)CC | C21H21F4IN2O2
